US04500526
A. 2-(3-Methylureido)thiazolo[4,5-c]pyridine
A mixture of 2-aminothiazolo[4,5-c]pyridine (151 mg, 1 mmole), pyridine (1.8 ml), CH3NCO (1.2 ml) and 3 ml DMF was stirred at room temperature for 2 days. To the reaction mixture was added CH3OH, and the mixture was evaporated in vacuo. The residue was treated with CH3OH and ether to give 165 mg (79%) of crystalline solid. Mp. 178°~187° C. (dec.).

reactant | 2-aminothiazolo[4,5-c]pyridine | 1 mmole, 151 mg | NC=1SC2=C(C=NC=C2)N1 | C6H5N3S
reactant | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | CH3NCO | 1.2 ml | CN=C=O | C2H3NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | CH3OH | CO | CH4O
product | 2-(3-Methylureido)thiazolo[4,5-c]pyridine | 165 mg, 79% | CNC(NC=1SC2=C(C=NC=C2)N1)=O | C8H8N4OS
